US06943159B1
5-Cyano-2-aminobenzenesulfonamide:
A mixture of 5-iodo-2-aminobenzene-sulfonamide (17.9 g; 60 mmol), Zn(CN)2 (4.9 g; 41.9 mmol) and Pd(PPh3)4 (2.5 g; 2.2 mmol) in DMF (150 ml) under N2 was heated to 80° C. for 2 h. The reaction mixture was poured into NaHCO3 (sat. aq., 600 ml) and extracted with EtOAc (9×200 ml). The combined organic fractions were washed with NaHCO3 (sat. aq.) and NaCl (sat. aq.), dried (Na2SO4), filtered and evaporated to dryness. The remanense was washed with water and hexane and filtered of to give 10.9 g (92%) of product.

reactant | 5-iodo-2-aminobenzene-sulfonamide | 60 mmol, 17.9 g | IC=1C=CC(=C(C1)S(=O)(=O)N)N | C6H7IN2O2S
reactant | NaHCO3 | 600 ml | C(=O)(O)[O-].[Na+]
reactant | DMF | 150 ml | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 41.9 mmol, 4.9 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 2.2 mmol, 2.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Cyano-2-aminobenzenesulfonamide | 10.9 g, 92% | C(#N)C=1C=CC(=C(C1)S(=O)(=O)N)N | C7H7N3O2S
